US07592477B2
Step b) Formation of N-[2-(3-chlorophenyl)ethyl]-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde and [2-(3-chlorophenyl)ethyl]amine gave the title compound as a colorless oil (76%). 1H NMR (CDCl3, 300 MHz) δ 8.06 (d, J=8.3 Hz, 2H), 7.44 (d, J=8.3 Hz, 2H), 7.23-7.00 (m, 4H), 3.88 (s, 2H), 2.95-2.68 (m, 6H), 1.75-1.65 (m, 2H), 1.41-1.20 (m, 10H), 0.87 (t, J=7.1 Hz, 3H). M+(LC/MS(ESI)): 426.4. HPLC (Condition A), Rt: 4.35 min (HPLC purity: 99.6%).

reactant | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
reactant | [2-(3-chlorophenyl)ethyl]amine | ClC=1C=C(C=CC1)CCN | C8H10ClN
product | N-[2-(3-chlorophenyl)ethyl]-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 76% | ClC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCC | C25H32ClN3O
